US07371750B2
To a stirred solution of ethyl 4-chloro-2-methylsulfanyl-5-pyrimidinecarboxylate (4.50 g, 19.4 mmol) in MeOH is added 7 N NH3 (13.9 mL) in MeOH at 0° C. and the mixture is stirred for 2 h at room temperature. The reaction mixture is diluted with EtOAc and washed with saturated NaHCO3 solution. The organic layer is dried over MgSO4, filtered and concentrated. The crude product is crystrallized from the mixed solvent of EtOAc and hexanes to give 2.90 g (66%) of ethyl 4-amino-2-methylsulfanyl-5-pyrimidinecarboxylate as a white solid.

reactant | ethyl 4-chloro-2-methylsulfanyl-5-pyrimidinecarboxylate | 19.4 mmol, 4.50 g | ClC1=NC(=NC=C1C(=O)OCC)SC | C8H9ClN2O2S
reactant | NH3 | 7 N, 13.9 mL | N | H3N
solvent | MeOH | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl 4-amino-2-methylsulfanyl-5-pyrimidinecarboxylate | 2.90 g, 66% | NC1=NC(=NC=C1C(=O)OCC)SC | C8H11N3O2S
